US06933311B2
N-(3,4-dichlorobenzyl)-N′-1H-indol-4-ylurea
4-Aminoindole (0.13 g, 1 mmol) in THF (3 mL) was treated with 1,2-dichloro-4-(isocyanatomethyl)benzene (0.22 g, 1.1 mmol) for 3 h at ambient temperature. Hexane was added to the reaction mixture to precipitate 0.25 g of the title compound as a tan solid. mp 201° C.; 1H NMR (300 MHz, DMSO-d6) δ 4.23 (d, 2H), 6.36 (s, 1H), 6.54 (t, 1H), 7.0 (dd, 1H), 7.25 (m, 2H), 7.30 (d, 2H), 7.45 (d, 1H), 7.6 (m, 2H), 8.31 (s, 1H), 10.87 (s, 1H) MS (DCI+) m/z 336 (M+H); Anal. Calcd. For C16H13N3Cl2O: C, 57.50; H, 3.92; N, 12.57. Found: C, 56.94, H, 3.68; N, 11.97.

reactant | 4-Aminoindole | 1 mmol, 0.13 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | 1,2-dichloro-4-(isocyanatomethyl)benzene | 1.1 mmol, 0.22 g | ClC1=C(C=C(C=C1)CN=C=O)Cl | C8H5Cl2NO
reactant | Hexane | CCCCCC | C6H14
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3,4-dichlorobenzyl)-N′-1H-indol-4-ylurea | ClC=1C=C(CNC(=O)NC2=C3C=CNC3=CC=C2)C=CC1Cl | C16H13Cl2N3O
